US07652049B2
Dimethylsulfoxide (1.01 g, 918 μL, 12.9 mmol) was added dropwise to a stirred solution of oxalyl chloride (790 mg, 543 μL, 6.23 mmol) in dry CH2Cl2 (12.6 mL) at −78° C. under N2 and the reaction was stirred for 15 min. A solution of benzyl [(1S)-2-hydroxy-1-methylethyl]carbamate (965 mg, 4.61 mmol) in dry CH2Cl2 (12.6 mL) was added dropwise by cannula and the mixture was stirred at −78° C. for 30 min. Triethylamine (1.34 g, 1.85 mL, 13.2 mmol) was added and the reaction was allowed to warm to room temperature and was stirred for 2 h. Water (15 mL) was added and the aqueous phase was separated and extracted with CH2Cl2 (3×15 mL). The combined organic extracts were washed with saturated NaHCO3 and brine, then dried (MgSO4) and concentrated in vacuo to afford benzyl [(1S)-1-methyl-2-oxoethyl]carbamate as a colorless oil. Rf=0.75 (50% EtOAc in hexanes). 1H NMR (500 MHz, CDCl3) δ 9.58 (s, 1H), 7.39-7.35 (m, 5H), 5.39 (br s, 1H), 5.15 (s, 2H), 4.33 (m, 1H), 1.40 (d, J=7.1 Hz, 3H).

reactant | Dimethylsulfoxide | 12.9 mmol, 918 μL, 1.01 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 6.23 mmol, 543 μL, 790 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzyl [(1S)-2-hydroxy-1-methylethyl]carbamate | 4.61 mmol, 965 mg | OC[C@H](C)NC(OCC1=CC=CC=C1)=O | C11H15NO3
reactant | Triethylamine | 13.2 mmol, 1.85 mL, 1.34 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 12.6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 12.6 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 15 mL | O | H2O
product | benzyl [(1S)-1-methyl-2-oxoethyl]carbamate | C[C@@H](C=O)NC(OCC1=CC=CC=C1)=O | C11H13NO3
